US07473783B2
To a solution of [5-(2-chloro-phenyl)-2H-pyrazol-3-yl]-thiourea (2.25 g, 8.9 mmol) in glacial AcOH (900 mL) was added a 1.5 M solution of bromine in AcOH (20 mL) dropwise under vigorous stirring. The resulting heterogeneous mixture was stirred at room temperature for 2 hours then it was concentrated to dryness. Water was added followed by a saturated solution of aqueous sodium bicarbonate to neutralize to pH 7. The resulting precipitate was filtered, washed with water and dried in vacuo. Recrystallization from isopropyl alcohol afforded 1.48 g (66% yield) of 3-(2-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine as a tan solid. 1H-NMR (d4-MeOH) δ: 7.64 (broad s, 1H), 7.53 (d, 1H), 7.42 (m, 2H); HPLC/MS m/z: 251 [MH]+.

reactant | [5-(2-chloro-phenyl)-2H-pyrazol-3-yl]-thiourea | 8.9 mmol, 2.25 g | ClC1=C(C=CC=C1)C=1C=C(NN1)NC(=S)N | C10H9ClN4S
reactant | bromine | BrBr | Br2
solvent | AcOH | 900 mL | CC(=O)O | C2H4O2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 3-(2-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 1.48 g, 66% yield | ClC1=C(C=CC=C1)C1=NNC=2N=C(SC21)N | C10H7ClN4S
